US07858643B2
1-[4-(4-{5-Amino-6-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-yl}-pyrazol-1-yl)-piperidin-1-yl]-2-dimethylamino-ethanone
The title compound was prepared according to procedure 63 using 3-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyrazin-2-ylamine coupled with dimethylamino-acetic acid in the presence of HOBt/EDC/triethylamine in DMF as described in procedure 5 using 5-bromo-3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-ylamine as the starting material. 1H NMR (400 MHz, DMSO-d6) δ 7.90 (s, 1H), 7.76 (s, 1H), 7.65 (s, 1H), 7.49 (m, 1H), 7.36 (t, 1H), 6.47 (q, 1H), 6.15 (s, 2H), 4.39 (m, 1H), 4.16 (m, 1H), 3.16 (m, 2H), 3.02 (m, 1H), 2.75 (m, 1H), 2.19 (s, 6H), 2.01 (m, 2H), 1.88 (s, 1H), 1.75 (d, 3H); LCMS: 536 [M+1]; c-Met Ki: 0.015 μM.

reactant | 3-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyrazin-2-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(N1)C=1C=NN(C1)C1CCNCC1)N | C20H21Cl2FN6O
reactant | dimethylamino-acetic acid | CN(C)CC(=O)O | C4H9NO2
reactant | HOBt EDC triethylamine | C=1C=CC2=C(C1)N=NN2O.C(CCl)Cl.C(C)N(CC)CC
reactant | 5-bromo-3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-ylamine | BrC=1N=C(C(=NC1)N)O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl | C12H9BrCl2FN3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[4-(4-{5-Amino-6-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyrazin-2-yl}-pyrazol-1-yl)-piperidin-1-yl]-2-dimethylamino-ethanone | NC=1N=CC(=NC1O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl)C=1C=NN(C1)C1CCN(CC1)C(CN(C)C)=O | C24H28Cl2FN7O2
